US06159904
21-3) Synthesis of 6-carboxy-5,8dimethylthiochrom-2-en-4-one
The captioned end product was obtained in the same manner as in Preparation Example 3-3 except that the 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one as a starting material in Preparation Example 3-3 was replaced with 6-ethoxycarbonyl-5,8-dimethylthiochrom-2-en-4-one and that the reflux time was changed to 18 hours. The yield was 96%.

reactant | 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one | ClC=1C=C(C(=C2C(CCSC12)=O)C)C(=O)OCC | C13H13ClO3S
reactant | 6-ethoxycarbonyl-5,8-dimethylthiochrom-2-en-4-one | C(C)OC(=O)C=1C(=C2C(C=CSC2=C(C1)C)=O)C | C14H14O3S
product | 6-carboxy-5,8dimethylthiochrom-2-en-4-one | yield was 96% | C(=O)(O)C=1C(=C2C(C=CSC2=C(C1)C)=O)C | C12H10O3S
